US07307084B2
AA. 7-Hydroxy-3-methyl-2-trifluoromethyl-3H-benzimidazole-5-carboxylic Acid Dimethylamide
A solution of 9.0 g (23.8 mmol) 7-benzyloxy-3-methyl-2-trifluoromethyl-3H-benzimidazole-5-carboxylic acid dimethylamide and 1.2 ml acetic acid in 300 ml ethanol-tetrahydrofuran (1:1) was hydrogenated over 1.1 g 10% Pd/C in autoclave (5 bar H2) at 50° C. for 16 h. The catalyst was filtered off and the filtrate concentrated in vacuo to afford 6.9 g (100%) of the title compound as a white solid.

reactant | 7-benzyloxy-3-methyl-2-trifluoromethyl-3H-benzimidazole-5-carboxylic acid dimethylamide | 23.8 mmol, 9.0 g | CN(C(=O)C1=CC2=C(N=C(N2C)C(F)(F)F)C(=C1)OCC1=CC=CC=C1)C | C19H18F3N3O2
reactant | acetic acid | 1.2 ml | C(C)(=O)O | C2H4O2
solvent | ethanol tetrahydrofuran | 300 ml | C(C)O.O1CCCC1
catalyst | Pd/C | 1.1 g | [Pd] | Pd
product | 7-Hydroxy-3-methyl-2-trifluoromethyl-3H-benzimidazole-5-carboxylic Acid Dimethylamide | 6.9 g, 100% | CN(C(=O)C1=CC2=C(N=C(N2C)C(F)(F)F)C(=C1)O)C | C12H12F3N3O2
